US04110447
A mixture of 2.82 g of 1-acetamido-3-p-biphenylyl-butan-3-ol, 0.1 g of p-toluenesulfonic acid and 70 ml of toluene is boiled for 2 hours under a water separator, 1-Acetamido-3-p-biphenylyl-2-butene is obtained after working up in the customary manner.

reactant | 1-acetamido-3-p-biphenylyl-butan-3-ol | 2.82 g | C(C)(=O)NCCC(C)(O)C1=C(C=CC=C1)C1=CC=CC=C1 | C18H21NO2
reactant | p-toluenesulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Acetamido-3-p-biphenylyl-2-butene | C(C)(=O)NCC=C(C)C1=C(C=CC=C1)C1=CC=CC=C1 | C18H19NO
